US07713994B2
(4E)-6-bromo-4-(methoxymethylene)isoquinoline-1,3(2H,4H)-dione (0.26 g, 0.94 mmol) and 4-aminomethyl-1H-pyridin-2-one hydrochloride (0.15 g, 0.94 mmol) were coupled in tetrahydrofuran (5 mL) and N,N-dimethylformamide (3 mL) with triethylamine (0.28 g) at room temperature overnight. After the addition of water, the solid material is collected by Buchner filtration, washed with diethyl ether, water, and methanol, and dried under vacuum to give (4Z)-6-bromo-4-({[(2-oxo-1,2-dihydropyridin-4-yl)methyl]amino}methylene)isoquinoline-1,3(2H,4H)-dione (0.19 g, 54%) as a gray powder.

reactant | (4E)-6-bromo-4-(methoxymethylene)isoquinoline-1,3(2H,4H)-dione | 0.94 mmol, 0.26 g | BrC=1C=C2\C(\C(NC(C2=CC1)=O)=O)=C/OC | C11H8BrNO3
reactant | 4-aminomethyl-1H-pyridin-2-one hydrochloride | 0.94 mmol, 0.15 g | Cl.NCC1=CC(NC=C1)=O
reactant | N,N-dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
reactant | triethylamine | 0.28 g | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | (4Z)-6-bromo-4-({[(2-oxo-1,2-dihydropyridin-4-yl)methyl]amino}methylene)isoquinoline-1,3(2H,4H)-dione | 0.19 g, 54% | BrC=1C=C2/C(/C(NC(C2=CC1)=O)=O)=C/NCC1=CC(NC=C1)=O | C16H12BrN3O3
